US04279912
A mixture of 1 g of ethyl 5,8-dimethoxyimidazo-[1,2-a]-quinoline-2-carboxylate in a mixture of 10 ml of methanol and a 5% sodium carbonate solution was refluxed for 1 hour, and the resultant solution was acidified with dilute hydrochloric acid. The precipitate of 5,8-dimethoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid thus formed was filtered off and was suspended in 10 ml of methanol. The mixture was acidified with HCl/methanol to obtain a clear solution from which the acid crystallized upon addition of diethyl ether to obtain the said acid melting at 248°-250° C.

reactant | ethyl 5,8-dimethoxyimidazo-[1,2-a]-quinoline-2-carboxylate | 1 g | COC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)OCC | C16H16N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5,8-dimethoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid | COC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)O | C14H12N2O4
